US07812040B2
N-Benzyl-N-methyl-3-oxocyclobutanecarboxamide.
CDI (40 g, 0.25 mol) was added to a solution of 3-oxo-cyclobutanecarboxylic acid (23 g, 0.2 mol) in THF (100 ml) at 0° C. under stirring, the mixture was stirred at RT for 1 h. N-methylbenzylamine (32 ml, 0.25 mol) was added to the mixture and the mixture was stirred at RT for 3 h and evaporated. The residue was purified by chromatography (silica gel, 63-100 μm, 500 g, CHCl3/MeOH 100:0→95:5). The title compound (27.9 g, 64%) was obtained as a colorless oil. 1H NMR data (DMSO-d6): 7.20 (m, 5H, Ph); 4.62 s, 4.55 s (2H, CH2); 3.46-3.62 (m, 1H); 3.28 (m, 4H,); 2.85 s, 2.94 s (3H, NCH3).

reactant | CDI | 0.25 mol, 40 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 3-oxo-cyclobutanecarboxylic acid | 0.2 mol, 23 g | O=C1CC(C1)C(=O)O | C5H6O3
reactant | N-methylbenzylamine | 0.25 mol, 32 ml | CNCC1=CC=CC=C1 | C8H11N
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | N-Benzyl-N-methyl-3-oxocyclobutanecarboxamide | 27.9 g, 64% | C(C1=CC=CC=C1)N(C(=O)C1CC(C1)=O)C | C13H15NO2
